### PR TITLE
Easy direction -- Cographical matroids are regular

### PR DESCRIPTION
**Pull request by kuba05**
Removes the last sorry in easy direction.

Requires the comatroid to be Finite though.

### CODE REVIEW

File: Seymour/Matroid/Comatroids.lean [hunk 1]
```diff
@@ -0,0 +1,466 @@
...
+  rfl
+private lemma cast_val_eq {α : Type*} {s t : Set α} (h : s = t) (x : α) (hx : x ∈ s) :
+  ↑(h ▸ Subtype.mk x hx : ↥t) = x := by
+  subst h
+  rfl
+
+
+end typing_hell
+
+variable {α R : Type*} [DecidableEq α] [Field R]
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Posuň prosím `variable [DecidableEq α]` o dvě deklarace níž.

File: Seymour/Matroid/Comatroids.lean [hunk 2]
```diff
@@ -0,0 +1,466 @@
...
+    have : #(S.Y) = #↑((S.X ∪ S.Y) \ I) := by
+      repeat rw [Fintype.card_eq_nat_card]
+      convert_to S.Y.ncard = ((S.X ∪ S.Y) \ I).ncard
+      rw [Set.ncard_diff hI, Set.ncard_union_eq S.hXY]
+      simp [hSize]
+    apply Matrix.almost_square_transpose_LinearIndependent N' 
+    convert this
+    exact hN_rows
+
+  have hN'2 : ∃ (e: S.Y → R), N'ᵀ *ᵥ e = 0 ∧ e ≠ 0 := by
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
  have hN'2 : ∃ e: S.Y → R, N'ᵀ *ᵥ e = 0 ∧ e ≠ 0 := by
```

File: Seymour/Matroid/Comatroids.lean [hunk 3]
```diff
@@ -0,0 +1,466 @@
...
+    simp [Matrix.one_apply] at this
+    exact this
+
+  have hN_isFull (e : S.Y → R) :  Nᵀ *ᵥ e = 0 → e = 0 := by 
+    intro h_mul
+    ext i
+    apply Fintype.linearIndependent_iff.mp this e
+    unfold Matrix.mulVec dotProduct at h_mul
+    simp at h_mul
+    rw [<- h_mul]
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
    rw [←h_mul]
```

File: Seymour/Matroid/Comatroids.lean [hunk 4]
```diff
@@ -0,0 +1,466 @@
...
+          exact False.elim (h_not j.property)
+    simp [Matrix.one_apply] at this
+    exact this
+
+  have hN_isFull (e : S.Y → R) :  Nᵀ *ᵥ e = 0 → e = 0 := by 
+    intro h_mul
+    ext i
+    apply Fintype.linearIndependent_iff.mp this e
+    unfold Matrix.mulVec dotProduct at h_mul
+    simp at h_mul
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Tenhle krok není bezpečný.

File: Seymour/Matroid/Comatroids.lean [hunk 5]
```diff
@@ -0,0 +1,466 @@
...
+      ((Set.union_comm S.X S.Y).symm ▸
+        fun x : S.Y.Elem => (fun i : S.Y.Elem => Sum.elim ((1 : Matrix S.Y.Elem S.Y.Elem R) i) ((-S.Bᵀ) i)) x ∘ Subtype.toSum) j ⟨i.val, Set.subset_union_left i.property⟩ =
+       (fun x : S.Y.Elem => (fun i : S.Y.Elem => Sum.elim ((1 : Matrix S.Y.Elem S.Y.Elem R) i) ((-S.Bᵀ) i)) x ∘ Subtype.toSum) j ⟨i.val, Set.subset_union_right i.property⟩
+  · convert ll S.X S.Y i j 1 (-S.Bᵀ)
+  rw [hh]
+  have hiY : i.val ∉ S.Y
+  · exact S.hXY.ni_right_of_in_left i.property
+  simp [Subtype.toSum, hiY]
+
+  -- first part done
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Tohle bych smazal.

File: Seymour/Matroid/Comatroids.lean (hunk 3 above)
Comment (madvorak) [reply Seymour/Matroid/Comatroids.lean]: A stejně níže.

File: Seymour/Matroid/Comatroids.lean [hunk 6]
```diff
@@ -0,0 +1,466 @@
...
+      subst heq
+      apply heq_of_eq
+      congr 1
+      apply Subtype.ext
+      exact h_val.symm
+    apply elim_cast (S✶.Y ∪ S✶.X) h_1 (h_2.elem r)
+    rfl
+
+lemma StandardRepr.dual_toMatroid_dual (S : StandardRepr α R) [Fintype S.X][Fintype S.Y]:
+  S.toMatroid = S.dual.toMatroid.dual := by
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Tady je ta indentace opačně. Pokračování tvrzení bývá 4 mezery, začátek důkazu 2 mezery.

File: Seymour/Matroid/Comatroids.lean [hunk 7]
```diff
@@ -0,0 +1,466 @@
...
+    · intro I hI
+      rw [Matroid.dual_isBase_iff']
+      rw [same_E, Matroid.dual_ground] at hI
+      simp only [hI, and_true]
+      constructor
+      · have := dual_toMatroid_one_way S hI
+        exact this
+      · set J := S.toMatroid.E \ I
+        set hJ : J ⊆ S.toMatroid.E := by
+          unfold J
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Ten `unfold` snad není potřeba. Ani otevírat `by` myslím.

File: Seymour/Matroid/Comatroids.lean (hunk 6 above)
Comment (madvorak) [reply Seymour/Matroid/Comatroids.lean]: A stejně níže.

File: Seymour/Matroid/Comatroids.lean [hunk 8]
```diff
@@ -0,0 +1,466 @@
...
+lemma StandardRepr.dual_toMatroid (S : StandardRepr α R) [Fintype S.X][Fintype S.Y]:
+    S.dual.toMatroid = S.toMatroid.dual := by
+      rw [Matroid.eq_dual_comm]
+      exact StandardRepr.dual_toMatroid_dual S
+
+
+
+lemma Matroid.isRegular.dual {M : Matroid α} (hM : M.IsRegular) (hM_is_finite : M.Finite):
+    (M✶).IsRegular := by
+      unfold Matroid.IsRegular
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Tyhle dva řádky spoj do jednoho (pokud jsou vůbec potřeba). Já většinou nechávám `unfold` jen v průběhu práce a potom ho mažu.

File: Seymour/Matroid/Comatroids.lean [hunk 9]
```diff
@@ -0,0 +1,466 @@
...
+      unfold Matroid.IsRegular at hM
+      obtain ⟨X, Y, x, hTU, hEq⟩ := hM
+      obtain ⟨someBase, h_someBase⟩ := x.toMatroid.exists_isBase
+      have h_someBase_finite : Fintype someBase := by
+        have := h_someBase.subset_ground
+        rw [hEq] at this
+        exact (hM_is_finite.ground_finite.subset this).fintype
+      obtain ⟨S, ⟨_, hS, hSTU⟩⟩ := x.exists_standardRepr_isBase_isTotallyUnimodular h_someBase hTU
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
      obtain ⟨S, _, hS, hSTU⟩ := x.exists_standardRepr_isBase_isTotallyUnimodular h_someBase hTU 
```

File: Seymour/Results/EasyDirection.lean [hunk 10]
```diff
@@ -11,7 +12,7 @@ variable {α : Type*} [DecidableEq α]
 inductive Matroid.IsGood : Matroid α → Prop
 -- leaf constructors
 | graphic {M : Matroid α} (hM : M.IsGraphic) : M.IsGood
-| cographic {M : Matroid α} (hM : M.IsCographic) : M.IsGood
+| cographic {M : Matroid α} (hM : M.IsCographic) (hM₂ : M.Finite) : M.IsGood
```
Comment (madvorak) [inline Seymour/Results/EasyDirection.lean]:
```suggestion
| cographic {M : Matroid α} (hM : M.IsCographic) (hM' : M.Finite) : M.IsGood
```

File: Seymour/Results/EasyDirection.lean [hunk 11]
```diff
@@ -22,7 +23,7 @@ inductive Matroid.IsGood : Matroid α → Prop
 theorem Matroid.IsGood.isRegular {M : Matroid α} (hM : M.IsGood) : M.IsRegular := by
   induction hM with
   | graphic hM => exact hM.isRegular
-  | cographic hM => sorry
+  | cographic hM hM₂ => exact hM.isRegular hM₂
```
Comment (madvorak) [inline Seymour/Results/EasyDirection.lean]:
```suggestion
  | cographic hM hM' => exact hM.isRegular hM'
```

**Comment by madvorak** [comment]
Thanks a lot for your contribution! Apart from the comments I have just added, could you go through your code once again and replace all temporary names by names that can stay in our project for ages?

File: Seymour/Matroid/Comatroids.lean (hunk 4 above)
Comment (kuba05) [reply Seymour/Matroid/Comatroids.lean]: co znamená "není bezpečný"?

Comment (madvorak) [reply Seymour/Matroid/Comatroids.lean]: Není to robustní vůči změnám upstream. Najdi si pojem "nonterminal simp".

**Comment by kuba05** [comment]
@madvorak 
are these "temporary names" problematic for private methods too?
Generally, these bad names are only in  typing_hell section

File: Seymour/Matroid/Comatroids.lean [hunk 12]
```diff
@@ -0,0 +1,464 @@
...
+    unfold small
+    convert this
+  intro ⟨hI_size, linear_indep⟩
+  apply Matroid.isBase_ncard (S.toMatroid_rankFinite_of_finite_X) hI_size.symm S.toMatroid_isBase_X
+  rw [StandardRepr.toMatroid_indep_iff_submatrix]
+  use hI
+  convert linear_indep
+
+omit [DecidableEq α] in
+lemma Matrix.almost_square_transpose_LinearIndependent {A B : Set α}[Fintype A] [Fintype B](N : Matrix A B R) (h_card : #A = #B) : LinearIndependent R N → LinearIndependent R Nᵀ := by
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
lemma Matrix.almost_square_transpose_LinearIndependent {A B : Set α} [Fintype A] [Fintype B] (N : Matrix A B R) (h_card : #A = #B) : LinearIndependent R N → LinearIndependent R Nᵀ := by
```

Comment (madvorak) [reply Seymour/Matroid/Comatroids.lean]: And break the line please.

**Comment by madvorak** [comment]
> @madvorak are these "temporary names" problematic for private methods too? Generally, these bad names are only in typing_hell section

If you want, I can take care of the `typing_hell` section myself. Please replace the other bad names such as:
```
this he2 he3 he4 he6 t h xx
```

File: Seymour/Matroid/Comatroids.lean [hunk 13]
```diff
@@ -0,0 +1,464 @@
...
+  ↑(h ▸ Subtype.mk x hx : ↥t) = x := by
+  subst h
+  rfl
+
+
+end typing_hell
+
+variable {α R : Type*} [Field R]
+
+variable [DecidableEq α]
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Move it below `Matroid.isBase_ncard` please.

File: Seymour/Matroid/Comatroids.lean [hunk 14]
```diff
@@ -0,0 +1,464 @@
...
+      apply_fun ENat.toNat at x
+      change B.ncard = I.ncard at x
+      exact x
+    rw [←this]
+    have := Set.encard_le_encard hB_subset
+    exact Set.ncard_le_ncard hB_subset hB_is_finite
+
+  exact (Set.eq_of_subset_of_ncard_le hJ_y this hy_is_finite).symm.subset
+
+lemma StandardRepr.toMatroid.isBase_iff {S : StandardRepr α R} [Fintype S.X] [Fintype S.Y] {I : Set α} (hI : I ⊆ (S.X ∪ S.Y)):
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
lemma StandardRepr.toMatroid.isBase_iff {S : StandardRepr α R} [Fintype S.X] [Fintype S.Y] {I : Set α} (hI : I ⊆ (S.X ∪ S.Y)) :
```

File: Seymour/Matroid/Comatroids.lean [hunk 15]
```diff
@@ -0,0 +1,464 @@
...
+    S.toMatroid.IsBase I ↔ (I.ncard = S.X.ncard ∧ LinearIndependent R (S.toFull.submatrix id (fun j => ⟨j.val, hI j.property⟩): Matrix S.X I R)ᵀ ) := by
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]:
```suggestion
    S.toMatroid.IsBase I ↔ (I.ncard = S.X.ncard ∧ LinearIndependent R (S.toFull.submatrix id (fun j => ⟨j.val, hI j.property⟩) : Matrix S.X I R)ᵀ ) := by
```

File: Seymour/Matroid/Comatroids.lean [hunk 16]
```diff
@@ -0,0 +1,464 @@
...
+  intro hN_rows
+  rw [linearIndependent_iff_card_eq_finrank_span] at hN_rows
+  rw [linearIndependent_iff_card_eq_finrank_span, ← h_card, hN_rows]
+  have {U V : Set α}[Fintype U][Fintype V](M : Matrix U V R): Set.finrank R (Set.range M) = M.rank := by
+    rw [Matrix.rank_eq_finrank_span_row M]
+    rfl
+  repeat rw [this]
+  exact (Matrix.rank_transpose N).symm
+
+omit [Field R] in
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: ???

File: Seymour/Matroid/Comatroids.lean [hunk 17]
```diff
@@ -0,0 +1,464 @@
...
+      exact x
+    rw [←this]
+    have := Set.encard_le_encard hB_subset
+    exact Set.ncard_le_ncard hB_subset hB_is_finite
+
+  exact (Set.eq_of_subset_of_ncard_le hJ_y this hy_is_finite).symm.subset
+
+lemma StandardRepr.toMatroid.isBase_iff {S : StandardRepr α R} [Fintype S.X] [Fintype S.Y] {I : Set α} (hI : I ⊆ (S.X ∪ S.Y)):
+    S.toMatroid.IsBase I ↔ (I.ncard = S.X.ncard ∧ LinearIndependent R (S.toFull.submatrix id (fun j => ⟨j.val, hI j.property⟩): Matrix S.X I R)ᵀ ) := by
+  set small : Matrix S.X I R := (S.toFull.submatrix id (fun j => ⟨j.val, hI j.property⟩))
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: If possible, replace all `(fun j => ⟨j.val, hI j.property⟩)` by `hI.elem` please.

File: Seymour/Matroid/Comatroids.lean [hunk 18]
```diff
@@ -0,0 +1,464 @@
...
+    exact hN_rows
+
+  have hN'2 : ∃ e: S.Y → R, N'ᵀ *ᵥ e = 0 ∧ e ≠ 0 := by
+    obtain ⟨e, h_sum, h_nz⟩ := Fintype.not_linearIndependent_iff.mp this
+    use e
+    constructor
+    · ext i
+      have h_sum_i := congr_fun h_sum i
+      rw [←h_sum_i]
+      unfold Matrix.mulVec dotProduct
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Move the unfolding into the `simp` below.

File: Seymour/Matroid/Comatroids.lean [hunk 19]
```diff
@@ -0,0 +1,464 @@
...
+    unfold v
+    unfold N' at this
+    let i_cast : ↑((S.X ∪ S.Y) \ I) := ⟨i.val.val, ⟨i.val.property, i.property⟩⟩
+    have hi := congr_fun this i_cast
+    exact hi
+  have he6 : M' *ᵥ v' = 0 := by
+    ext i 
+    have h4_i := congr_fun he4 i
+    rw [← h4_i]
+    unfold M'
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Can all the unfolding be done inside the `simp only` below?

File: Seymour/Matroid/Comatroids.lean [hunk 20]
```diff
@@ -0,0 +1,464 @@
...
+    convert t using 1
+    ext r c
+    simp only [Matrix.submatrix_apply, Matrix.transpose_apply, id]
+    revert M
+    congr! with M t
+    generalize_proofs h_eq h_1 h_2
+    have h_set : S✶.Y ∪ S✶.X = S✶.X ∪ S✶.Y := Set.union_comm S✶.Y S✶.X
+    apply eq_of_heq
+
+    have elim_cast (U: Set _)(heq : S.dual.X ∪ S.dual.Y = U)(elem_r : U) : elem_r.val = ↑r → HEq (M c (Subtype.mk (↑r) h_eq)) ((heq ▸ M) c elem_r) := by
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Please rewrite this line so that I can read it.

File: Seymour/Matroid/Comatroids.lean [hunk 21]
```diff
@@ -0,0 +1,464 @@
...
+        rw [Set.inter_eq_right.mpr hI]
+      · exact this
+
+
+lemma StandardRepr.dual_toMatroid (S : StandardRepr α R) [Fintype S.X][Fintype S.Y]:
+    S.dual.toMatroid = S.toMatroid.dual := by
+  rw [Matroid.eq_dual_comm]
+  exact StandardRepr.dual_toMatroid_dual S
+
+
```
Comment (madvorak) [inline Seymour/Matroid/Comatroids.lean]: Is there an intentional semantic distinction between when there are three empty lines between declarations, where there are two, and where there is only one empty line?

File: Seymour/Matroid/Comatroids.lean (hunk 17 above)
Comment (kuba05) [reply Seymour/Matroid/Comatroids.lean]: sadly, this breaks some types in the later parts of the code in a way which I am unable to fix

Comment (kuba05) [reply Seymour/Matroid/Comatroids.lean]: actually, managed to solve it somehow

File: Seymour/Matroid/Comatroids.lean (hunk 20 above)
Comment (kuba05) [reply Seymour/Matroid/Comatroids.lean]: somewhat improved, not sure sufficiently, but I am unsure how to improve it any further

File: Seymour/Matroid/Comatroids.lean (hunk 21 above)
Comment (kuba05) [reply Seymour/Matroid/Comatroids.lean]: it should usually be just 1 line. Only special case is now around adding a variable, as to make it a bit easier to spot where they are introduced

**Comment by madvorak** [comment]
Thanks a lot!
